US04695654
The compound 1-methanesulfonyloxy-2,2-difluoro-4-benzyloxybutane (21.8 g, 74.1 mM), dry DMF (100 mL), and potassium phthalimide (15.26 g, 10% excess) are stirred and heated under nitrogen, at 120° C. for 5 days. Following the addition of water (500 mL), the mixture is extracted with ether. The organic phase is washed with 1N CCl followed by water (twice), dried (Na2SO4) and concentrated to a volume of about 100 mL. Upon addition of petroleum ether, crystallization occurs. After chilling for 3 hours at 5° C., beige crystals of the compound N-(4-benzyloxy-2,2-difluorobutyl)phthalimide are obtained, filtered and washed with petroleum ether: 18 g (70%).

reactant | 1-methanesulfonyloxy-2,2-difluoro-4-benzyloxybutane | 74.1 mM, 21.8 g | CS(=O)(=O)OCC(CCOCC1=CC=CC=C1)(F)F | C12H16F2O4S
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 15.26 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | water | 500 mL | O | H2O
product | N-(4-benzyloxy-2,2-difluorobutyl)phthalimide | C(C1=CC=CC=C1)OCCC(CN1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C19H17F2NO3
